US04395570
Methyl 5-(4-trifluoromethylphenoxy)-2-nitrobenzoate is stirred with a catalytic amount of ferric chloride. The reaction mixture was heated to 70° C. under a continuous stream of chlorine gas. After 2.5 hours, the mixture was taken up in ether, shaken with water and the organic phase was dried over MgSO4. The ether was evaporated to afford methyl 5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrobenzoate. NMR (CDCl3)δ8.2-7 (m,6) 4.0 (2,3). TLC (40% ether/hexane) Rf ≈.4.

reactant | Methyl 5-(4-trifluoromethylphenoxy)-2-nitrobenzoate | FC(C1=CC=C(OC=2C=CC(=C(C(=O)OC)C2)[N+](=O)[O-])C=C1)(F)F | C15H10F3NO5
reactant | chlorine | ClCl | Cl2
reactant | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | methyl 5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrobenzoate | ClC1=C(OC=2C=CC(=C(C(=O)OC)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C15H9ClF3NO5
